US07553854B2
To the solution of tert-butyl 4-(2-(cyclohexylmethylamino)benzo[d]thiazol-6-yloxy)picolinate (420 mg, 1.14 mmol) under argon in 50 ml of THF was added 1 M LAH solution in THF (3.41 ml, 3.41 mmol) slowly at room temperature. The reaction mixture was stirred at room temperature for 30 minutes. The crude reaction mixture was worked up by carefully adding methanol (5 ml), then 6M NaOH (5 ml), and water (5 ml) with stirring at room temperature. The aluminum salts were allowed to precipitate out. Ethyl acetate (200 ml) was added and the organic layer was decanted off from salts. The salts were washed again with ethyl acetate (100 ml) and decanted. The organic layers were combined and washed with brine (2×50 ml), dried with Na2SO4, filtered and concentrated. The resulting solid residue was purified by silica gel column chromatography, eluted with (5% methanol 95% DCM) and concentrated in vacuo to give (4-(2-(cyclohexylmethylamino)benzo[d]thiazol-6-yloxy)pyridin-2-yl)methanol as solid (157 mg). ES/MS m/z 370.2 (MH+).

reactant | tert-butyl 4-(2-(cyclohexylmethylamino)benzo[d]thiazol-6-yloxy)picolinate | 1.14 mmol, 420 mg | C1(CCCCC1)CNC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)OC(C)(C)C | C24H29N3O3S
reactant | LAH | 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 6M, 5 ml | [OH-].[Na+]
reactant | aluminum | [Al] | Al
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 3.41 mmol, 3.41 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | (4-(2-(cyclohexylmethylamino)benzo[d]thiazol-6-yloxy)pyridin-2-yl)methanol | 157 mg | C1(CCCCC1)CNC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)CO | C20H23N3O2S
